US07241787B2
6-Cyclopentyloxypyridin-3-ylamine
A mixture of 5-nitropyridin-2-ol (14.0 g), bromocyclopentane (8.0 g), potassium carbonate (14 g) and DMF (200 mL) was heated at 80° C. for 6 hours. After cooling, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was washed with water, dried over magnesium sulfate and concentrated. The residue was purified by chromatography on silica gel. The resulting product (2-cyclopentyloxy-5-nitropyridine) was hydrogenated in ethanol using palladium(II) hydroxide as catalyst. The product with the molecular weight of 178.24 (C10H14N20) was obtained in this way; MS (ESI): 179 (M+H+).

reactant | 5-nitropyridin-2-ol | 14.0 g | [N+](=O)([O-])C=1C=CC(=NC1)O | C5H4N2O3
reactant | bromocyclopentane | 8.0 g | BrC1CCCC1 | C5H9Br
reactant | potassium carbonate | 14 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-Cyclopentyloxypyridin-3-ylamine | C1(CCCC1)OC1=CC=C(C=N1)N | C10H14N2O
